US20010047014A1
(3R,4R) and (3 S,4S)-4-benzyl-1-[2-(4-benzyloxy-phenoxy)-ethyl]-piperidine-3,4-diol 550 mg (1.3 mmol) was dissolved in 10 ml EtOH and hydrogenated in the presence of 100 mg Pd/C (10%) under atmospheric pressure at 50° C. After 4 hours the reaction was complete and the catalyst was filtered off and the solvent was removed under reduced pressure to give the crude product. Purification by chromatography (CH2Cl2/MeOH 9:1) yielded 249 mg (0.73 mmol, 56%) (3R,4R) and (3S,4S)-4-benzyl-1-[2-(4-hydroxy-phenoxy)-ethyl]-piperidine-3,4-diol as a solid.

reactant | (3 S,4S)-4-benzyl-1-[2-(4-benzyloxy-phenoxy)-ethyl]-piperidine-3,4-diol | 1.3 mmol, 550 mg | C(C1=CC=CC=C1)[C@]1([C@H](CN(CC1)CCOC1=CC=C(C=C1)OCC1=CC=CC=C1)O)O | C27H31NO4
solvent | EtOH | 10 ml | CCO | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | (3S,4S)-4-benzyl-1-[2-(4-hydroxy-phenoxy)-ethyl]-piperidine-3,4-diol | C(C1=CC=CC=C1)[C@]1([C@H](CN(CC1)CCOC1=CC=C(C=C1)O)O)O | C20H25NO4
